*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 4.1
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_0 1 2 3 4 REF
C_C1 1 REF 0.6384084620894pf
C_C2 1 2 13.646535584782pf
C_C3 1 4 0.3587855856361pf
C_C4 2 REF 1.6323846590206pf
C_C5 2 3 0.0901953585832pf
C_C6 3 REF 0.5083603823848pf
C_C7 3 4 7.0930685240906pf
C_C8 4 REF 0.154503644087pf
L_L1 3 5 1.3155201529086nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_1 1 2 3 4 REF
C_C1 1 REF 0.479844996852pf
C_C2 1 2 13.923849396686pf
C_C3 1 4 0.3271300874944pf
C_C4 2 REF 1.3162824296858pf
C_C5 2 3 0.0976394705889pf
C_C6 3 REF 0.4682792008289pf
C_C7 3 4 5.2557241784931pf
C_C8 4 REF 0.1943426707424pf
R_R1 1 2 832.77055190375
L_L1 3 5 1.3170356637713nh
R_RL1 5 4 3.1573724499e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_2 1 2 3 4 REF
C_C1 1 REF 0.3794789790457pf
C_C2 1 2 14.17877889083pf
C_C3 1 4 0.3017573358608pf
C_C4 2 REF 1.0873450770332pf
C_C5 2 3 0.102782687364pf
C_C6 3 REF 0.4364309818955pf
C_C7 3 4 3.9742277241952pf
C_C8 4 REF 0.2260735490536pf
R_R1 1 2 804.46014012255
L_L1 3 5 1.3182947251723nh
R_RL1 5 4 2.1497777425e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_3 1 2 3 4 REF
C_C1 1 REF 0.3053572315625pf
C_C2 1 2 14.489256261752pf
C_C3 1 4 0.2770614158926pf
C_C4 2 REF 0.8851866097184pf
C_C5 2 3 0.107027980931pf
C_C6 3 REF 0.4053858888286pf
C_C7 3 4 2.8730255647646pf
C_C8 4 REF 0.2570970158201pf
R_R1 1 2 790.52323693529
L_L1 3 5 1.3195574283412nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_4 1 2 3 4 REF
C_C1 1 REF 0.2590356310106pf
C_C2 1 2 14.866736683644pf
C_C3 1 4 0.2552498929842pf
C_C4 2 REF 0.7212301387218pf
C_C5 2 3 0.1100749115377pf
C_C6 3 REF 0.3775124442719pf
C_C7 3 4 1.99192129104pf
C_C8 4 REF 0.2850341702796pf
R_R1 1 2 796.6825817312
L_L1 3 5 1.3208366444357nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_5 1 2 3 4 REF
C_C1 1 REF 0.2395981095721pf
C_C2 1 2 15.268835543115pf
C_C3 1 4 0.2400627037048pf
C_C4 2 REF 0.6135454820713pf
C_C5 2 3 0.111622488876pf
C_C6 3 REF 0.3572499117186pf
C_C7 3 4 1.4099905989151pf
C_C8 4 REF 0.3053876104624pf
R_R1 1 2 826.07369448779
L_L1 3 5 1.3218691253503nh
R_RL1 5 4 -1.776118705e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_6 1 2 3 4 REF
C_C1 1 REF 0.234611592208pf
C_C2 1 2 15.707320613519pf
C_C3 1 4 0.2299999946428pf
C_C4 2 REF 0.5421153050444pf
C_C5 2 3 0.1122050525799pf
C_C6 3 REF 0.3425993894059pf
C_C7 3 4 1.0121260366256pf
C_C8 4 REF 0.3201094276667pf
R_R1 1 2 881.02168655559
L_L1 3 5 1.3227219856282nh
R_RL1 5 4 -2.814161212e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_7 1 2 3 4 REF
C_C1 1 REF 0.2381505349602pf
C_C2 1 2 16.280346762382pf
C_C3 1 4 0.2234152224351pf
C_C4 2 REF 0.4890335855087pf
C_C5 2 3 0.1121369882431pf
C_C6 3 REF 0.3307913391905pf
C_C7 3 4 0.6952642596233pf
C_C8 4 REF 0.3319480873595pf
R_R1 1 2 989.74850029639
L_L1 3 5 1.3235321457664nh
R_RL1 5 4 -3.876197303e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_8 1 2 3 4 REF
C_C1 1 REF 0.2470576420811pf
C_C2 1 2 17.019842873016pf
C_C3 1 4 0.2210507401098pf
C_C4 2 REF 0.4535959854019pf
C_C5 2 3 0.1116075606305pf
C_C6 3 REF 0.3221894885986pf
C_C7 3 4 0.4517286144283pf
C_C8 4 REF 0.340514449998pf
L_L1 3 5 1.3242694321323nh
R_RL1 5 4 -4.987315117e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_9 1 2 3 4 REF
C_C1 1 REF 0.258192810378pf
C_C2 1 2 17.991309143683pf
C_C3 1 3 0.0156022076605pf
C_C4 1 4 0.2238121476616pf
C_C5 2 REF 0.4350267964981pf
C_C6 2 3 0.1109479973659pf
C_C7 3 REF 0.3169345581614pf
C_C8 3 4 0.2725494630942pf
C_C9 4 REF 0.3456550090767pf
L_L1 3 5 1.3249202320886nh
R_RL1 5 4 -6.077114392e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_10 1 2 3 4 REF
C_C1 1 REF 0.2681648577517pf
C_C2 1 2 19.259754870985pf
C_C3 1 3 0.0183111074047pf
C_C4 1 4 0.2321811163537pf
C_C5 2 REF 0.4309364723071pf
C_C6 2 3 0.1106847948282pf
C_C7 3 REF 0.3146022470697pf
C_C8 3 4 0.1429769047911pf
C_C9 4 REF 0.3478088786981pf
L_L1 3 5 1.3254993335665nh
R_RL1 5 4 -7.149885937e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_11 1 2 3 4 REF
C_C1 1 REF 0.2737907335865pf
C_C2 1 2 20.955686891152pf
C_C3 1 3 0.0174213893635pf
C_C4 1 4 0.2473075927628pf
C_C5 2 REF 0.4401770700376pf
C_C6 2 3 0.1115717530447pf
C_C7 3 REF 0.3147334834755pf
C_C8 3 4 0.0519283116264pf
C_C9 4 REF 0.3474618962276pf
L_L1 1 5 70.888567406513nh
R_RL1 5 2 12.767428531752
L_L2 3 6 1.3259912766847nh
R_RL2 6 4 -8.125404658e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_12 1 2 3 4 REF
C_C1 1 REF 0.272231027723pf
C_C2 1 2 23.234820299389pf
C_C3 1 3 0.0126927123895pf
C_C4 1 4 0.2704303379958pf
C_C5 2 REF 0.4613959879504pf
C_C6 2 3 0.1145463828736pf
C_C7 3 REF 0.3166215925573pf
C_C8 4 REF 0.3453590679161pf
L_L1 1 5 43.935074766854nh
R_RL1 5 2 8.8088589805329
L_L2 3 6 1.3263212003397nh
R_RL2 6 4 -8.947449121e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_13 1 2 3 4 REF
C_C1 1 REF 0.260086315734pf
C_C2 1 2 26.413930318706pf
C_C3 1 4 0.3046143038351pf
C_C4 2 REF 0.4951421332569pf
C_C5 2 3 0.1211074374868pf
C_C6 3 REF 0.3196662955467pf
C_C7 4 REF 0.3421368020021pf
R_R1 1 2 -668.0006486719
L_L1 1 5 26.894253709168nh
R_RL1 5 2 5.7539778389118
L_L2 3 6 1.3262280783659nh
R_RL2 6 4 -9.466925604e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_14 1 2 3 4 REF
C_C1 1 REF 0.2337242341376pf
C_C2 1 2 30.959628765077pf
C_C3 1 4 0.3545276489727pf
C_C4 2 REF 0.5428283781844pf
C_C5 2 3 0.1333177367961pf
C_C6 3 REF 0.3232412798621pf
C_C7 4 REF 0.3384524838281pf
L_L1 1 5 15.913194463593nh
R_RL1 5 2 -0.73635161682
L_L2 3 6 1.3259306504094nh
R_RL2 6 4 1.8664592204e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_15 1 2 3 4 REF
C_C1 1 REF 0.186204457207pf
C_C2 1 2 37.893479076065pf
C_C3 1 4 0.4309712876727pf
C_C4 2 REF 0.6100683886106pf
C_C5 2 3 0.1552787635535pf
C_C6 3 REF 0.3268448582428pf
C_C7 4 REF 0.3348440925035pf
R_R1 1 2 -289.8456537714
L_L1 1 5 9.2232636797579nh
R_RL1 5 2 3.4526679573755
L_L2 3 6 1.32535156937nh
R_RL2 6 4 -1.047858241e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_16 1 2 3 4 REF
C_C1 1 REF 0.0978628415537pf
C_C2 1 2 50.178748792395pf
C_C3 1 4 0.5659372557309pf
C_C4 2 REF 0.7166979120574pf
C_C5 2 3 0.1981430387934pf
C_C6 3 REF 0.3301854129011pf
C_C7 4 REF 0.3316900683295pf
R_R1 1 2 -205.287816609
L_L1 1 5 5.3438455901664nh
R_RL1 5 2 -0.145532669599
L_L2 3 6 1.3243035914732nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_17 1 2 3 4 REF
C_C1 1 2 75.606907829511pf
C_C2 1 4 0.8436543537906pf
C_C3 2 REF 0.9132405820169pf
C_C4 2 3 0.2912863985477pf
C_C5 3 REF 0.3325916535301pf
C_C6 4 REF 0.3299754991018pf
R_R1 1 2 -150.2740316284
L_L1 1 5 2.2206874561361nh
R_RL1 5 2 0.2131382391607
L_L2 1 6 95.627708876715nh
R_RL2 6 3 0.1269432950076
L_L3 1 7 94.830294720021nh
R_RL3 7 4 0.1268543638997
L_L4 2 8 95.667269246022nh
R_RL4 8 3 0.0098566668323
L_L5 2 9 94.872906879102nh
R_RL5 9 4 0.0102016838807
L_L6 3 10 1.3221060424931nh
R_RL6 10 4 1.8514744483e-5
Kn_K1 L_L1 L_L2 0.0748368295565
Kn_K2 L_L1 L_L3 0.0750456673449
Kn_K3 L_L1 L_L4 -0.077535511447
Kn_K4 L_L1 L_L5 -0.077964559686
Kn_K5 L_L2 L_L3 0.9930669844937
Kn_K6 L_L2 L_L4 0.988391313589
Kn_K7 L_L2 L_L5 0.9813944025791
Kn_K8 L_L2 L_L6 -0.094250257128
Kn_K9 L_L3 L_L4 0.9814279138318
Kn_K10 L_L3 L_L5 0.9882939101314
Kn_K11 L_L3 L_L6 0.0234297501368
Kn_K12 L_L4 L_L5 0.9930699042676
Kn_K13 L_L4 L_L6 -0.0940950898
Kn_K14 L_L5 L_L6 0.0235607327465
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_18 1 2 3 4 REF
C_C1 1 2 146.36233192743pf
C_C2 1 4 1.6122788822215pf
C_C3 2 REF 1.4134440434998pf
C_C4 2 3 0.5541091295395pf
C_C5 3 REF 0.3328401603765pf
C_C6 4 REF 0.332387916988pf
R_R1 1 2 -138.0663577839
L_L1 1 5 0.7760326043104nh
R_RL1 5 2 0.0340597431393
L_L2 1 6 37.246171749497nh
R_RL2 6 3 0.020461466918
L_L3 1 7 36.53083347739nh
R_RL3 7 4 0.021636030016
L_L4 2 8 37.342382311131nh
R_RL4 8 3 0.0017548045357
L_L5 2 9 36.630854961699nh
R_RL5 9 4 0.00184826334
L_L6 3 10 1.3160494246366nh
R_RL6 10 4 3.7747231941e-5
Kn_K1 L_L1 L_L2 0.0632243599707
Kn_K2 L_L1 L_L3 0.0634825070594
Kn_K3 L_L1 L_L4 -0.081015214318
Kn_K4 L_L1 L_L5 -0.082155645739
Kn_K5 L_L2 L_L3 0.9822079643967
Kn_K6 L_L2 L_L4 0.989596645097
Kn_K7 L_L2 L_L5 0.9716636802208
Kn_K8 L_L2 L_L6 -0.145072769343
Kn_K9 L_L3 L_L4 0.9717903303813
Kn_K10 L_L3 L_L5 0.98939383474
Kn_K11 L_L3 L_L6 0.0433181408333
Kn_K12 L_L4 L_L5 0.9822545540622
Kn_K13 L_L4 L_L6 -0.144613954372
Kn_K14 L_L5 L_L6 0.0435333954041
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_19 1 2 3 4 REF
C_C1 1 2 589.54321571766pf
C_C2 1 4 6.4108575735901pf
C_C3 2 REF 4.4054775769429pf
C_C4 2 3 2.1943137278511pf
C_C5 3 REF 0.3224569542159pf
C_C6 4 REF 0.3629543225698pf
R_R1 1 REF -679.1690027329
R_R2 1 2 14.915936088749
R_R3 2 REF 670.38784227292
L_L1 1 5 16.234477594069nh
R_RL1 5 REF -0.062901092188
L_L2 1 6 0.1310494692377nh
R_RL2 6 2 -0.016899458208
L_L3 1 7 7.6740532607151nh
R_RL3 7 3 -8.964377693e-3
L_L4 1 8 7.0261854831966nh
R_RL4 8 4 -8.656272125e-3
L_L5 2 9 16.145811141279nh
R_RL5 9 REF -0.147096506446
L_L6 2 10 7.7029523004841nh
R_RL6 10 3 -1.260696041e-3
L_L7 2 11 7.0599001578184nh
R_RL7 11 4 -1.204847152e-3
L_L8 3 12 23.756929918367nh
R_RL8 12 REF -0.137285490122
L_L9 3 13 1.2785070656806nh
R_RL9 13 4 6.055381355e-5
L_L10 4 14 23.104486509292nh
R_RL10 14 REF -0.128017046632
Kn_K1 L_L1 L_L2 0.0753172998341
Kn_K2 L_L1 L_L5 0.9959565350406
Kn_K3 L_L1 L_L8 0.8227947006136
Kn_K4 L_L1 L_L10 0.834213070349
Kn_K5 L_L2 L_L3 0.0509307607795
Kn_K6 L_L2 L_L4 0.0507178322281
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.07959833124
Kn_K9 L_L2 L_L7 -0.085647718291
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9139161394917
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9914793199413
Kn_K15 L_L3 L_L7 0.9047922907978
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.307501211863
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9055848638852
Kn_K21 L_L4 L_L7 0.9906993681435
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1052057934684
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8220494338192
Kn_K26 L_L5 L_L10 0.8333323649081
Kn_K27 L_L6 L_L7 0.9142647773215
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.306156584747
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1057557299269
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1751839905111
Kn_K35 L_L8 L_L10 0.9728115684904
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_20 1 2 3 4 REF
C_C1 1 REF 10.844495360622pf
C_C2 1 3 5.7601149497294pf
C_C3 2 4 16.839576021063pf
C_C4 3 REF 0.3734266997915pf
C_C5 4 REF 0.2080350101623pf
R_R1 1 REF 566.60069448887
R_R2 1 2 5.2338471024726
R_R3 1 3 -694.3674540172
R_R4 1 4 339.99163580097
R_R5 2 REF -568.454317177
R_R6 2 3 710.61577208383
R_R7 2 4 -346.2661940313
L_L1 1 5 4.8457762553443nh
R_RL1 5 REF -2.936038023e-3
L_L2 1 6 0.3109572279842nh
R_RL2 6 2 -0.316588690821
L_L3 1 7 2.9460802321244nh
R_RL3 7 3 -0.140191871603
L_L4 1 8 2.4011055300529nh
R_RL4 8 4 -0.196052777827
L_L5 2 9 5.1307841377889nh
R_RL5 9 REF -0.188683165369
L_L6 2 10 2.8597611162954nh
R_RL6 10 3 -0.03541812756
L_L7 2 11 2.2622303086917nh
R_RL7 11 4 -0.014317431846
L_L8 3 12 7.7965037201731nh
R_RL8 12 REF -0.058701877736
L_L9 3 13 1.1871657453774nh
R_RL9 13 4 -4.562324568e-3
L_L10 4 14 7.262393092619nh
R_RL10 14 REF -0.097450582081
Kn_K1 L_L1 L_L2 0.0105697424869
Kn_K2 L_L1 L_L5 0.969226800443
Kn_K3 L_L1 L_L8 0.7887510198644
Kn_K4 L_L1 L_L10 0.818156404266
Kn_K5 L_L2 L_L3 0.2075344013515
Kn_K6 L_L2 L_L4 0.2602944049387
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.119107261231
Kn_K9 L_L2 L_L7 -0.102585677174
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0432501057637
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7820553937572
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9465452470688
Kn_K16 L_L3 L_L7 0.7287590233667
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.463100387018
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7079382333346
Kn_K22 L_L4 L_L7 0.9337328526237
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.190183548359
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0253284114961
Kn_K27 L_L5 L_L7 0.0191700791109
Kn_K28 L_L5 L_L8 0.7958862088044
Kn_K29 L_L5 L_L9 -0.012848425919
Kn_K30 L_L5 L_L10 0.8298284046632
Kn_K31 L_L6 L_L7 0.7735033779472
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.484299289926
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1798991562754
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2828883014945
Kn_K39 L_L8 L_L10 0.9217451124656
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_21 1 2 3 4 REF
C_C1 1 2 460.35435108193pf
C_C2 1 4 5.0230326310547pf
C_C3 2 REF 3.5473583035326pf
C_C4 2 3 1.7417204419342pf
C_C5 3 REF 0.3205664414835pf
C_C6 4 REF 0.3561298780283pf
R_R1 1 2 -5.94339329124
R_R2 1 4 -467.9062634604
R_R3 2 4 468.07640332759
L_L1 1 5 14.773741454206nh
R_RL1 5 REF -0.107295838554
L_L2 1 6 0.079506031289nh
R_RL2 6 2 0.0273522552851
L_L3 1 7 6.8442947127194nh
R_RL3 7 3 0.014370127938
L_L4 1 8 6.1985926851764nh
R_RL4 8 4 0.017223687736
L_L5 2 9 14.655212201031nh
R_RL5 9 REF -0.155581677011
L_L6 2 10 6.8855093685979nh
R_RL6 10 3 0.002145297333
L_L7 2 11 6.2474926265617nh
R_RL7 11 4 0.0012389171624
L_L8 3 12 21.492075967709nh
R_RL8 12 REF -0.157868446825
L_L9 3 13 1.2710022604276nh
R_RL9 13 4 1.288167154e-4
L_L10 4 14 20.838266855174nh
R_RL10 14 REF -0.150005630433
Kn_K1 L_L1 L_L2 0.0913623571848
Kn_K2 L_L1 L_L5 0.9973064629628
Kn_K3 L_L1 L_L8 0.825563948421
Kn_K4 L_L1 L_L10 0.8381841019704
Kn_K5 L_L2 L_L3 0.0259541363634
Kn_K6 L_L2 L_L4 0.021798733734
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081579986441
Kn_K9 L_L2 L_L7 -0.091096630931
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.012088065687
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9036601262671
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.994213717199
Kn_K16 L_L3 L_L7 0.8971887626905
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.3249283509
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8986091317702
Kn_K22 L_L4 L_L7 0.9936196338575
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1113881224534
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.824395264127
Kn_K27 L_L5 L_L10 0.836776404109
Kn_K28 L_L6 L_L7 0.9042884865906
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.322655488852
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1123149947077
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1841390233823
Kn_K36 L_L8 L_L10 0.9700899229005
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_22 1 2 3 4 REF
C_C1 1 2 75.185283868958pf
C_C2 1 4 0.8676319425693pf
C_C3 2 REF 0.9293779694592pf
C_C4 2 3 0.3369387275519pf
C_C5 3 REF 0.3272495443833pf
C_C6 4 REF 0.3293930861984pf
R_R1 1 2 -59.86021141496
L_L1 1 5 0.3576069054961nh
R_RL1 5 2 0.0863092822775
L_L2 1 6 34.960443902383nh
R_RL2 6 3 0.0497937590632
L_L3 1 7 34.236887935425nh
R_RL3 7 4 0.0529741648264
L_L4 2 8 35.259665361491nh
R_RL4 8 3 0.0093909526089
L_L5 2 9 34.545182201317nh
R_RL5 9 4 0.0071303955472
L_L6 3 10 1.3118362690791nh
R_RL6 10 4 3.0246004041e-5
Kn_K1 L_L1 L_L4 -0.092486823169
Kn_K2 L_L1 L_L5 -0.094729030183
Kn_K3 L_L2 L_L3 0.9810957338184
Kn_K4 L_L2 L_L4 0.9949163761345
Kn_K5 L_L2 L_L5 0.9758680626516
Kn_K6 L_L2 L_L6 -0.150276070986
Kn_K7 L_L3 L_L4 0.9762143182435
Kn_K8 L_L3 L_L5 0.9948108632097
Kn_K9 L_L3 L_L6 0.0438901791472
Kn_K10 L_L4 L_L5 0.9812584909837
Kn_K11 L_L4 L_L6 -0.148970063511
Kn_K12 L_L5 L_L6 0.0443677670365
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_23 1 2 3 4 REF
C_C1 1 REF 0.2589649580087pf
C_C2 1 2 26.998320782876pf
C_C3 1 4 0.3436226228813pf
C_C4 2 REF 0.5992803021563pf
C_C5 2 3 0.1563963060197pf
C_C6 3 REF 0.3268116407815pf
C_C7 4 REF 0.3257542170893pf
R_R1 1 2 -207.6490506791
L_L1 1 5 0.7564977225133nh
R_RL1 5 2 0.3788948625352
L_L2 3 6 1.3172008692667nh
R_RL2 6 4 4.9329079866e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_24 1 2 3 4 REF
C_C1 1 REF 0.3589671866908pf
C_C2 1 2 12.798416489771pf
C_C3 1 3 0.0329641335241pf
C_C4 1 4 0.1823442701835pf
C_C5 2 REF 0.5167467212677pf
C_C6 2 3 0.0906526492495pf
C_C7 3 REF 0.3270911109603pf
C_C8 4 REF 0.3222016194386pf
L_L1 1 5 1.1328876161201nh
R_RL1 5 2 0.1415321038786
L_L2 3 6 1.317098961948nh
R_RL2 6 4 1.745044267e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_25 1 2 3 4 REF
C_C1 1 REF 0.3997268693131pf
C_C2 1 2 7.4525564143816pf
C_C3 1 3 0.0629997559452pf
C_C4 1 4 0.1203618422331pf
C_C5 2 REF 0.4956454203283pf
C_C6 2 3 0.063104788287pf
C_C7 2 4 0.0150516941025pf
C_C8 3 REF 0.3263675236254pf
C_C9 4 REF 0.3192279552581pf
L_L1 1 5 1.6910401862247nh
R_RL1 5 2 8.1666813234e-4
L_L2 3 6 1.3148375662801nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_26 1 2 3 4 REF
C_C1 1 REF 0.4167608719023pf
C_C2 1 2 5.8401710763019pf
C_C3 1 3 0.0731546976289pf
C_C4 1 4 0.1017329973547pf
C_C5 2 REF 0.4909129199184pf
C_C6 2 3 0.0554640834559pf
C_C7 2 4 0.0363438008371pf
C_C8 3 REF 0.3251976491618pf
C_C9 4 REF 0.3177302348362pf
L_L1 1 5 1.8367438233884nh
R_RL1 5 2 1.0709776897e-4
L_L2 3 6 1.3138523359057nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param62_26

